US06121307
[3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(2-methoxy-phenoxy)-2-phenyl-ethyl]-amine
A solution of 2-(2-methoxy-phenoxy)-2-phenyl-ethylchloride (0.71 g, 2.7 mmol), 2-(5-fluoro-1H-indol-3-yl)-ethylamine (1.04 g, 5.4 mmol) and triethylamine (0.75 ml, 5.4 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 12 hours at 90° C. The mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×100 ml), dried over anhydrous sodium sulfate, filtered, and the solvent was removed under vacuum. Chromatography (7% methanol-methylene chloride plus ammonium hydroxide) afforded 0.15 g (13%)of parouduct of product as a yellow oil.

reactant | 2-(2-methoxy-phenoxy)-2-phenyl-ethylchloride | 2.7 mmol, 0.71 g | COC1=C(OC(CCl)C2=CC=CC=C2)C=CC=C1 | C15H15ClO2
reactant | 2-(5-fluoro-1H-indol-3-yl)-ethylamine | 5.4 mmol, 1.04 g | FC=1C=C2C(=CNC2=CC1)CCN | C10H11FN2
reactant | triethylamine | 5.4 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(2-methoxy-phenoxy)-2-phenyl-ethyl]-amine | FC=1C=C2C(=CNC2=CC1)CCCNCC(C1=CC=CC=C1)OC1=C(C=CC=C1)OC | C26H27FN2O2
